US05885985
(a) 4-(3-((phenylamino)carbonyl)propyl)aniline hydrochloride
A stirred solution of 4-(4-nitrophenyl)butyric acid (5.0 g; 0.023 moles) in 20 ml of thionyl chloride was refluxed for 4 hours. The solvent was evaporated and the crude acid chloride, 2.5 g, was added dropwise to a stirred solution of aniline (2.0 g; 0.02 moles) in 30 ml of tetrahydrofuran and 10 ml of triethylamine and the reaction was then stirred 18 hours. The triethylamine hydrochloride was removed by filtration and 50 ml of ethyl acetate was added to the organic phase. The organic phase was washed with 1×100 ml of 1N hydrochloric acid and the dried over magnesium sulfate. The solvent evaporated to yield a yellow solid. The solid was dissolved in 100 ml of methanol and 250 mg of 10% palladium on carbon was added, the reaction was hydrogenated over a 4 hour period. The catalyst was removed by filtration and the solvent evaporated. To the residue was added 100 ml of ethyl acetate and hydrochloric acid-gas was added. Upon cooling 4(3-(((phenyl)amino)carbonyl)propyl)aniline hydrochloride, a white solid, crystallized and was collected by filtration to yield 1.7 g.

reactant | 4-(4-nitrophenyl)butyric acid | 0.023 moles, 5.0 g | [N+](=O)([O-])C1=CC=C(C=C1)CCCC(=O)O | C10H11NO4
reactant | aniline | 0.02 moles, 2.0 g | NC1=CC=CC=C1 | C6H7N
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
solvent | triethylamine | 10 ml | C(C)N(CC)CC | C6H15N
solvent | methanol | 100 ml | CO | CH4O
catalyst | palladium on carbon | 250 mg | [Pd] | Pd
product | 4-(3-((phenylamino)carbonyl)propyl)aniline hydrochloride | Cl.C1(=CC=CC=C1)NC(=O)CCCC1=CC=C(N)C=C1 | InChI=1S/C16H18N2O.ClH/c17-14-11-9-13(10-12-14)5-4-8-16(19)18-15-6-2-1-3-7-15;/h1-3,6-7,9-12H,4-5,8,17H2,(H,18,19);1H
